US05157041
0.395 g of 4-(tert.butoxycarbonyl)-N-tert.butyl-2-piperazinecarboxamide was dissolved in 50 ml of dry isopropanol and treated with 0.413 g of 3(S)-(benzyloxyformamido)-1,2(S)-epoxy-4-phenylbutane. The mixture was stirred at room temperature for 72 hours. The solvent was removed by evaporation to give a brown semi-solid material which was purified by flash chromatography on silica gel using 5% methanol in dichloromethane for the elution. There was obtained 0.234 g of 1-[3(S)-(benzyloxyformamido)-2(R)-hydroxy-4-phenylbutyl]-4-(tert.butoxycarbonyl)-N-tert.butyl-2(R or S)-piperazinecarboxamide as a mixture of diastereomers.

reactant | 4-(tert.butoxycarbonyl)-N-tert.butyl-2-piperazinecarboxamide | 0.395 g | C(C)(C)(C)OC(=O)N1CC(NCC1)C(=O)NC(C)(C)C | C14H27N3O3
reactant | 3(S)-(benzyloxyformamido)-1,2(S)-epoxy-4-phenylbutane | 0.413 g | C(C1=CC=CC=C1)OC(=O)N[C@H]([C@H]1CO1)CC1=CC=CC=C1 | C18H19NO3
solvent | isopropanol | 50 ml | C(C)(C)O | C3H8O
product | piperazinecarboxamide | N1(CCNCC1)C(=O)N | C5H11N3O
